US06548506B2
1-Ethyl-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 2, but from 1.75 g of 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 3.6 g of 4-(4-fluorophenyl)piperazine in 18 cm3 of pyridine. The solid obtained was taken up in 10 cm3 of water and 1.9 cm3 of 10% acetic acid were added. The suspension was brought to approximately 100° C. The solidified product was filtered off and washed 2 times with 10 cm3 of water and 2 times with 10 cm3 of warm ethanol. After recrystallizing twice from 25 cm3 of dimethylformamide on each occasion, 1.7 g of 1-ethyl-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a pinkish-beige solid melting at about 311-312° C.

reactant | 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.75 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C15H10ClFN2O3
reactant | 4-(4-fluorophenyl)piperazine | 3.6 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | acetic acid | 1.9 cm3 | C(C)(=O)O | C2H4O2
solvent | pyridine | 18 cm3 | N1=CC=CC=C1 | C5H5N
solvent | water | 10 cm3 | O | H2O
product | 1-ethyl-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.7 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)C3=CC=C(C=C3)F)=O)C(=O)O | C25H22F2N4O3
